US07595327B2
A solution of 3-(1-phenyl-ethylamino)-7-aza-bicyclo[2.2.1]hept-2-ene-2,7-dicarboxylic acid 7-tert-butyl ester 2-methyl ester (0.3 g, 0.81 mmol) in acetic acid-acetonitrile (1:1, 20 mL) was treated with sodium triacetoxyborohydride (0.19 g, 0.89 mmol), stirred for 5 h at 0° C. and then neutralized with saturated aqueous sodium bicarbonate (5 mL). The organic layer was washed with brine (3×20 mL), then dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by Biotage Flash 40S chromatography, eluting with 2:1 ethyl acetate-hexanes, to provide 3-(1-phenyl-ethylamino)-7-aza-bicyclo[2.2.1]heptane-2,7-dicarboxylic acid 7-tert-butyl ester 2-methyl ester as a 3:1 mixture of diastereomers (0.28 g, 93%). MS: 375 (M+H)+.

reactant | 3-(1-phenyl-ethylamino)-7-aza-bicyclo[2.2.1]hept-2-ene-2,7-dicarboxylic acid 7-tert-butyl ester 2-methyl ester | 0.81 mmol, 0.3 g | COC(=O)C=1C2CCC(C1NC(C)C1=CC=CC=C1)N2C(=O)OC(C)(C)C | C21H28N2O4
reactant | sodium triacetoxyborohydride | 0.89 mmol, 0.19 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | acetic acid acetonitrile | 20 mL | C(C)(=O)O.C(C)#N
product | 3-(1-phenyl-ethylamino)-7-aza-bicyclo[2.2.1]heptane-2,7-dicarboxylic acid 7-tert-butyl ester 2-methyl ester | COC(=O)C1C2CCC(C1NC(C)C1=CC=CC=C1)N2C(=O)OC(C)(C)C | C21H30N2O4
